US07326791B2
rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(1-oxothiazolidin-3-ylcarbonyl)benzamide
Prepared analogously to Example 85 from rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]4-(thiazolidin-3-ylcarbonyl)benzamide and 3-chloroperoxybenzoic acid in dichloromethane/glacial acetic acid. Yield: 46%; Rf value: 0.20 (silica gel; dichloromethane/methanol=9:1); C20H18Cl2N4O3S (465.36); mass spectrum: (M+H)+=465/467 (chlorine isotope) and (M−H)−=463/465 (chlorine isotope).

reactant | rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]4-(thiazolidin-3-ylcarbonyl)benzamide | ClC=1C=C(C(=O)NC(C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CSCC1 | C20H18Cl2N4O2S
reactant | 3-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | dichloromethane methanol | ClCCl.CO
reactant | chlorine | ClCl | Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(1-oxothiazolidin-3-ylcarbonyl)benzamide | Yield: 46% | ClC=1C=C(C(=O)NC(C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CS(CC1)=O | C20H18Cl2N4O3S
